*** 2k40k.cir ***

Vcc cc 0 DC 5
Vref 4 0 DC 2.5

* PULSE (Vinitial, Vpulse, delay time, rise time, fall time, pulse width, period)
Vin in 0 DC 0 AC 1 PULSE (0mV 1uV 0s 1ns 1ns 50us 100us)
Rin 1 in 100

C1 1 2 330n
R1 2 3 1000
R2 3 6 10000
C3 6 7 330n
R3 7 0 1000

.include ./lm7171.cir
X1 4 3 cc 0 6 LM7171A

.control
ac dec 100 1 100G
plot vdb(6)
plot vp(6)
wrdata 2k40k vdb(6) vp(6)
*tran 1us 1000us
*plot v(1) v(6)


